US08426437B2
8-{[2-(tert-Butoxycarbonyl-isopropyl-amino)-ethyl]-cyclopropyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate is prepared according to synthesis 111, from 326 mg (1 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid and 288 mg (1.2 mmol) of N-tert-butoxycarbonyl-N′-cyclopropyl-N-isopropyl-ethane-1,2-diamine to give, after esterification according to general method C (using di-n-propylsulfate as the dialkylsulfate) and purification by chromatography on silica (eluent cyclohexane/ethyl acetate 1/1 then 1/3), 201 mg (35% in two stages) of 8-{[2-(tert-butoxycarbonyl-isopropyl-amino)-ethyl]-cyclopropyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-propyl carboxylate in the form of a white solid.

reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 1 mmol, 326 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
reactant | N-tert-butoxycarbonyl-N′-cyclopropyl-N-isopropyl-ethane-1,2-diamine | 1.2 mmol, 288 mg | C(C)(C)(C)OC(=O)N(CCNC1CC1)C(C)C | C13H26N2O2
reactant | di-n-propylsulfate | C(CC)OS(=O)(=O)OCCC | C6H14O4S
product | 8-{[2-(tert-Butoxycarbonyl-isopropyl-amino)-ethyl]-cyclopropyl-sulfamoyl}-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline 1-propyl carboxylate | C(C)(C)(C)OC(=O)N(CCN(S(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3)C3CC3)C(C)C.C(CC)C(=O)[O-] | InChI=1S/C24H32N4O5S.C4H8O2/c1-15(2)27(23(30)33-24(3,4)5)12-13-28(16-6-7-16)34(31,32)17-8-9-20-19(14-17)18-10-11-25-21(18)22(29)26-20;1-2-3-4(5)6/h8-11,14-16,25H,6-7,12-13H2,1-5H3,(H,26,29);2-3H2,1H3,(H,5,6)/p-1
